### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Integral/Pi): dependent types, values in R or C

### PR DESCRIPTION
**Pull request by loefflerd**
This is a generalisation of the lemmas in `MeasureTheory.Integral.Pi` to consider functions on products `(i : ι) → E i`, rather than just products of multiple copies of the same type. I also allowed complex-valued functions, and renamed some lemmas slightly (since the lemmas had `finset` in their names but were about fintypes, not finsets).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/Pi.lean [hunk 1]
```diff
@@ -12,38 +12,49 @@ import Mathlib.MeasureTheory.Constructions.Prod.Integral
 
 open BigOperators Fintype MeasureTheory MeasureTheory.Measure
 
-theorem MeasureTheory.integral_finset_prod_eq_prod' {E : Type*} {n : ℕ} (f : (Fin n) → E → ℝ)
-    [MeasureSpace E] [SigmaFinite (volume : Measure E)] :
-    ∫ x : (Fin n) → E, ∏ i, f i (x i) = ∏ i, ∫ x, f i x := by
+variable {L : Type*} [IsROrC L]
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Integral/Pi.lean:15]: I think we try to use `\bbk` wherever possible for arguments to `IsROrC`, though perhaps that's not as established a convention as I think it is.

File: Mathlib/MeasureTheory/Integral/Pi.lean [hunk 2]
```diff
@@ -12,38 +12,49 @@ import Mathlib.MeasureTheory.Constructions.Prod.Integral
...
+
+/-- A version of **Fubini's theorem** in `n` variables, for a natural number `n`. -/
+theorem MeasureTheory.integral_fin_nat_prod_eq_prod {n : ℕ} {E : Fin n → Type*}
+    [∀ i, MeasureSpace (E i)] [∀ i, SigmaFinite (volume : Measure (E i))]
+    (f : (i : Fin n) → E i → L) : ∫ x : (i : Fin n) → E i, ∏ i, f i (x i) = ∏ i, ∫ x, f i x := by
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Integral/Pi.lean:20]: nit: I think this is easier to parse with the conclusion on its own line:
```suggestion
    (f : (i : Fin n) → E i → L) :
    ∫ x : (i : Fin n) → E i, ∏ i, f i (x i) = ∏ i, ∫ x, f i x := by
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

**Comment by xroblot** [comment]
I see that Eric did already a comprehensive review of this PR. In any case, it looks like a great improvement to me. Thanks!

**Review by xroblot — APPROVED** [review]

File: Mathlib/MeasureTheory/Integral/Pi.lean [hunk 3]
```diff
@@ -12,38 +12,45 @@ import Mathlib.MeasureTheory.Constructions.Prod.Integral
...
+    ∫ x : (i : ι) → E i, ∏ i, f i (x i) = ∏ i, ∫ x, f i x := by
+  let e := (equivFin ι).symm
+  rw [← (volume_measurePreserving_piCongrLeft _ e).integral_comp']
+  have : ∫ x, ∏ i, f i ((MeasurableEquiv.piCongrLeft E e) x i) =
+      ∫ x : (m : Fin (card ι)) → E (e m), ∏ m, f (e m) (x m)
+  · congr 1 with v : 1
+    refine (prod_equiv e _ _ fun m ↦ ?_).symm
+    rw [MeasurableEquiv.coe_piCongrLeft, Equiv.piCongrLeft_apply_apply]
+  rw [this, MeasureTheory.integral_fin_nat_prod_eq_prod]
+  exact prod_equiv e _ _ (fun i ↦ by rfl)
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Integral/Pi.lean:51]:
```suggestion
  simp_rw [←e.prod_comp, MeasurableEquiv.coe_piCongrLeft, Equiv.piCongrLeft_apply_apply,
    MeasureTheory.integral_fin_nat_prod_eq_prod]
```

**Comment by loefflerd** [comment]
bors r+

Thanks for the reviews, Eric and Xavier!
